US08084489B2
A solution of 2-methyl-2-thiophen-2-yl-propionic acid methyl ester (3.66 g, 17.2 mmol) in CH2Cl2 (85 mL) at 0° C. is treated with diisobutylaluminum hydrde (Dibal-H, 1.0 M PhMe, 38.0 mL, 384.0 mmol) and warmed to rt overnight. The reaction mixture is carefully poured into 1N tartaric acid (100 mL) and stirred for 3 d. The layers are separated and the aqueous layer is extracted with CH2Cl2 (100 mL). The combined extracts are dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 0% to 75% EtOAc to give 2-ethyl-2-thiophen-2-yl-butan-1-ol (2.87 g, 90%) as a pink oil.

reactant | 2-methyl-2-thiophen-2-yl-propionic acid methyl ester | 17.2 mmol, 3.66 g | COC(C(C)(C=1SC=CC1)C)=O | C9H12O2S
reactant | diisobutylaluminum | C(C(C)C)[Al]CC(C)C
reactant | Dibal-H | CC(C)C[Al]CC(C)C
reactant | PhMe | 1.0 M | C1(=CC=CC=C1)C | C7H8
reactant | tartaric acid | 1N, 100 mL | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | CH2Cl2 | 85 mL | C(Cl)Cl | CH2Cl2
product | 2-ethyl-2-thiophen-2-yl-butan-1-ol | 2.87 g, 90% | C(C)C(CO)(CC)C=1SC=CC1 | C10H16OS
